US05019578
5-Ethenyl-2-(isobutyramido)pyrimidine
A glass-lined pressure vessel was charged with 4.85 g of 5-bromo-2-(isobutyramido)pyrimidine, 5.0 ml of triethylamine, 15 ml of acetonitrile, 245 mg of tris(O-tolyl)phosphine, and 55 mg of palladium acetate. The vessel was placed under an ethylene atmosphere at 200 psi and heated at 80° C. for 18 hours in a rocking autoclave. The vessel was cooled and then vented. The residue was treated with 50 ml of ether and the resulting mixture filtered. The solid was further washed with ether (2×25 ml). The organic filtrate was concentrated and then chromatographed on silica gel. Elution with methylene chloride:methanol (95:5) afforded 2.99 g of product, mp 110°-112° C.

reactant | 5-bromo-2-(isobutyramido)pyrimidine | 4.85 g | BrC=1C=NC(=NC1)NC(C(C)C)=O | C8H10BrN3O
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
reactant | tris(O-tolyl)phosphine | 245 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
catalyst | palladium acetate | 55 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 5-Ethenyl-2-(isobutyramido)pyrimidine | 2.99 g | C(=C)C=1C=NC(=NC1)NC(C(C)C)=O | C10H13N3O
